US05670546
Synthesis of 3-(3,4-dimethylphenyl)propylamine
A mixture of 18.5 g of the compound obtained in step 1 and 50 ml of thionyl chloride was refluxed for 2 hours, concentrated under a reduced pressure and the residue was dissolved in 100 ml of ethyl ether. The resulting solution was added to a mixture of 200 ml of ethyl ether, 150 ml of water and 50 ml of 30% aqueous ammonia solution with stirring. The organic layer was discarded and the remaining aqueous layer was extracted twice with 150 ml of dichloromethane. The organic solvent was distilled off to obtain a residue which was essentially 3-(3,4-dimethylphenyl)propionamide. This residue dissolved in 150 ml of tetrahydrofuran was added to a mixture of 8.0 g of LiAlH4 and 200 ml of tetrahydrofuran. The resultant mixture was refluxed for 5 hours; then 30 ml of 30% aqueous NaOH solution and 20 ml of water were added thereto. After separating the tetrahydrofuran layer, the solid residue was dissolved in 300 ml of water and extracted twice with 200 ml of ethyl ether. The tetrahydrofuran layer and the ethyl ether extract were combined, and the resulting solution was concentrated under a reduced pressure. The residue so obtained was distilled under a reduced pressure(140° to 150° C., 0.5 mmHg) to obtain 13.4 g of the title compound(yield: 79%).

reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-(3,4-dimethylphenyl)propionamide | CC=1C=C(C=CC1C)CCC(=O)N | C11H15NO
reactant | LiAlH4 | 8.0 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | 30 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
product | 3-(3,4-dimethylphenyl)propylamine | 13.4 g, yield: 79% | CC=1C=C(C=CC1C)CCCN | C11H17N
